US05856573
Methoxyamine hydrochloride (7.52 g, 0.09 mol) was dissolved in methanol (60 ml), and a 28% sodium methoxide-methanol solution (19.68 g, 0.102 mol) was added to the solution under ice-cooling to obtain a suspension. A solution of 2-[2-{(1-ethoxyethyl)oxymethyl}phenyl]-N-methyl-2-oxoacetamide (15.92 g, 0.06 mol) in methanol (60 ml) was added to the suspension. The mixture was stirred under reflux for 2 hours. After completion of the reaction, about half of the methanol was evaporated under reduced pressure, water (400 ml) was added, and the mixture was extracted with dichloromethane (200 ml) twice. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was dissolved in methanol (30 ml), a 36% aqueous hydrochloric acid solution (0.61 g, 0.006 mol) was added under ice-cooling, and the mixture was stirred for 0.5 hours. After completion of the reaction, water (370 ml) and saturated sodium bicarbonate (30 ml) were added, and the mixture was extracted with dichloromethane (200 ml) twice. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain crude 2-(2-hydroxymethylphenyl)-2-methoxyimino-N-methylacetamide (12.98 g, Yield: 97.3%, E/Z=96/4) as colorless crystals.

reactant | Methoxyamine hydrochloride | 0.09 mol, 7.52 g | Cl.CON
reactant | sodium methoxide methanol | 0.102 mol, 19.68 g | C[O-].[Na+].CO
reactant | 2-[2-{(1-ethoxyethyl)oxymethyl}phenyl]-N-methyl-2-oxoacetamide | 0.06 mol, 15.92 g | C(C)OC(C)OCC1=C(C=CC=C1)C(C(=O)NC)=O | C14H19NO4
reactant | hydrochloric acid | 0.006 mol, 0.61 g | Cl | ClH
reactant | sodium bicarbonate | 30 ml | C([O-])(O)=O.[Na+]
solvent | methanol | 60 ml | CO | CH4O
solvent | methanol | 60 ml | CO | CH4O
solvent | water | 370 ml | O | H2O
product | 2-(2-hydroxymethylphenyl)-2-methoxyimino-N-methylacetamide | 12.98 g, Yield: 97.3% | OCC1=C(C=CC=C1)C(C(=O)NC)=NOC | C11H14N2O3
